US06521643B1
A suspension of 3-(4-methylpyridin-2-yl)nitrobenzene (100 mg) in ethanol (2 ml) was hydrogenated over palladium on carbon (10% w/w, 50% wet, 10 mg) under a hydrogen atmosphere for 3 hours. The catalyst was filtered off, and the filtrate was evaporated under reduced pressure to give 3-(4-methylpyridin-2-yl)aniline (85 mg).

reactant | 3-(4-methylpyridin-2-yl)nitrobenzene | 100 mg | CC1=CC(=NC=C1)C=1C=C(C=CC1)[N+](=O)[O-] | C12H10N2O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | 3-(4-methylpyridin-2-yl)aniline | 85 mg | CC1=CC(=NC=C1)C=1C=C(N)C=CC1 | C12H12N2
